US08003649B2
1,1,1-Triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one (530 mg, 1.21 mmol) was added in one portion to [3-fluoro-5-(methylsulfonyl)phenyl]methanol (225 mg, 1.10 mmol) in DCM (20 mL) at 22° C. The resulting solution was stirred at ambient temperature for 2 hours. The reaction mixture was diluted with DCM (50 ml) and poured into saturated aqueous sodium bicarbonate (30 mL) containing sodium thiosulfate (1219 mg, 7.71 mmol). The resulting suspension was stirred for 10 minutes before separating the layers. The organic layer was washed with water (1×50 mL), dried over MgSO4 and evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 30 to 40% EtOAc in isohexane. Pure fractions were evaporated to dryness to afford 3-fluoro-5-(methylsulfonyl)benzaldehyde (168 mg, 75%) as a white solid.

reactant | 1,1,1-Triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one | 1.21 mmol, 530 mg | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | [3-fluoro-5-(methylsulfonyl)phenyl]methanol | 1.10 mmol, 225 mg | FC=1C=C(C=C(C1)S(=O)(=O)C)CO | C8H9FO3S
reactant | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
reactant | sodium thiosulfate | 7.71 mmol, 1219 mg | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-fluoro-5-(methylsulfonyl)benzaldehyde | 168 mg, 75% | FC=1C=C(C=O)C=C(C1)S(=O)(=O)C | C8H7FO3S
